US05661161
Step D: Preparation of N-[(tert-Butyloxy)carbonyl]-3-ethylproline methyl ester
3-Ethylproline hydrochloride (Cis:Trans Mixture) (20 g, 0.11 mol) was dissolved in CH3OH (200 mL), and the solution was saturated with HCl gas, then stirred at 23° C. for 24 h. Argon was bubbled through the solution to remove excess HCl. The solution was treated with NaHCO3 (>84 g) to a pH of 8, then di-tert-butyl dicarbonate (25.1 g, 0.115 mol) dissolved in CH3OH (20 mL) was added slowly. After stirring for 18 h at 23° C., the mixture was filtered, the filtrate concentrated, and the residue triturated with EtOAc, filtered again, and concentrated to give 29.1 g of the title compound as an oil.

reactant | 3-Ethylproline hydrochloride | 0.11 mol, 20 g | Cl.C(C)C1[C@H](NCC1)C(=O)O
reactant | HCl | Cl | ClH
reactant | di-tert-butyl dicarbonate | 0.115 mol, 25.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | CH3OH | 200 mL | CO | CH4O
reactant | CH3OH | 20 mL | CO | CH4O
product | N-[(tert-Butyloxy)carbonyl]-3-ethylproline methyl ester | 29.1 g | COC([C@H]1N(CCC1CC)C(=O)OC(C)(C)C)=O | C13H23NO4
